US08334456B2
Preparation of 4,8-bis[(2-hexyldecyl)oxy]-benzo[1,2-b:4,5-b′]dithiophene
Benzo[1,2-b:4,5-b′]dithiophene-4,8-dione (1.0 g, 4.54 mmol) and Zn powder (0.659 g, 10.1 mmol) were suspended in ethanol (10 mL). A solution of NaOH (3 g) in water (15 mL) was added. The resulting mixture was heated to reflux for 1 hour, after which 2-hexyldecyl(4-methylbenzenesulfonate) (3.86 g, 9.73 mmol) was added. The reaction was heated to reflux overnight. The reaction was cooled to room temperature and water (50 mL) was added. The reaction was extracted with ether, followed by separation and drying of the organic layer over MgSO4. Solvent was removed and the residue was purified by chromatography (10% dichloromethane in hexanes as eluent). The yield of the 4,8-bis[(2-hexyldecyl)oxy]-benzo[1,2-b:4,5-b′]dithiophene was 0.80 g (26%). 1H NMR (CDCl3, 500 MHz) δ=7.47 (d, J=2.75, 2H), 7.36 (d, J=2.75, 2H), 4.16 (m, 4H), 1.86 (m, 2H), 1.38-1.65 (m, 48H), 0.86 (m, 12H).

reactant | Benzo[1,2-b:4,5-b′]dithiophene-4,8-dione | 4.54 mmol, 1.0 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | NaOH | 3 g | [OH-].[Na+]
reactant | 2-hexyldecyl(4-methylbenzenesulfonate) | 9.73 mmol, 3.86 g | C(CCCCC)C(COS(=O)(=O)C1=CC=C(C=C1)C)CCCCCCCC | C23H40O3S
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
catalyst | Zn | 10.1 mmol, 0.659 g | [Zn] | Zn
solvent | water | 50 mL | O | H2O
product | 4,8-bis[(2-hexyldecyl)oxy]-benzo[1,2-b:4,5-b′]dithiophene | C(CCCCC)C(COC1=C2C(SC=C2)=C(C2=C1SC=C2)OCC(CCCCCCCC)CCCCCC)CCCCCCCC | C42H70O2S2
